US20010056179A1
Preparation of Fmoc-1-amino-4-(3-methoxyphenyl)cyclohexane-1-carboxylic acid (Fmoc-3-MeOApc-OH)
The bis-Boc hydantoin (2.30 g, 4.84 mmol) was dissolved in DME (80 mL) to give a clear solution. To this solution was added 1N NaOH (44 mL, 44 mmol) and the reaction was stirred overnight at room temperature, giving a slightly cloudy mixture. HPLC showed completion of the reaction. The reaction mixture was concentrated under reduced pressure to remove DME and extracted with Et2O. Without purification, the resulting aqueous layer containing 1-amino-4-(3-methoxyphenyl)cyclohexane carboxylic acid (3-MeOAPC) was treated with 6N HCl to adjust the pH to 11-12. To this solution (˜40 mL) were added dioxane (80 mL) and Fmoc-Cl (1.73 g, 6.76 mmol, 1.4 equiv) and the reaction was stirred overnight at room temperature. The reaction mixture was then concentrated under reduced pressure to remove DME, neutralized with 3N HCl and extracted with EtOAc. The combined organic extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated. The crude product was purified by flash chromatography on silica gel (CH2Cl2/MeOH, 98/2→90/10) to give the pure product as a white solid (1.98 g, 87% yield from bis-Boc hydantoin). 1H NMR (DMSO-d6), 7.88 (d, 2H), 7.75 (d, 2H), 7.40 (td, 2H), 7.30 (td, 2H), 7.21 (m, 1H), 6.71-6.80 (m, 3H), 3.72 (s, 3H); MS (electrospray) m/e 494 (M+Na), Calcd for C29H29NO5, 471.

reactant | bis-Boc hydantoin | 4.84 mmol, 2.30 g | C(=O)(OC(C)(C)C)C1(C(NC(N1)=O)=O)C(=O)OC(C)(C)C | C13H20N2O6
reactant | NaOH | 44 mmol, 1N, 44 mL | [OH-].[Na+]
reactant | dioxane | 80 mL | O1CCOCC1 | C4H8O2
reactant | Fmoc-Cl | 6.76 mmol, 1.73 g, 1.4 equiv | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | DME | 80 mL | COCCOC | C4H10O2
product | Fmoc-1-amino-4-(3-methoxyphenyl)cyclohexane-1-carboxylic acid | 1.98 g, 87% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C1C(CCC(C1)C1=CC(=CC=C1)OC)(C(=O)O)N | C29H29NO5
